US06300352B1
a) 3-bromobenzenesulfonic acid, pyrrolidinyl amide
A solution of pyrrolidine (0.33 ml) and triethylamine (0.6 ml) in dichloromethane (10 ml) was added dropwise to a stirred solution of 3-bromobenzenesulfonyl chloride (1 g) in dichloromethane (20 ml), and the mixture stirred at room temperature for 18 hours. The reaction was poured onto water, and the aqueous mixture was extracted with dichloromethane. The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give an oil. This was purified by column chromatography over silica gel, eluting with ethyl acetate isohexane (1:4) to give the sub-title compound as a solid (1.10 g)

reactant | pyrrolidine | 0.33 ml | N1CCCC1 | C4H9N
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromobenzenesulfonyl chloride | 1 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-bromobenzenesulfonic acid, pyrrolidinyl amide | 1.10 g | N1(CCCC1)NS(=O)(=O)C1=CC(=CC=C1)Br | C10H13BrN2O2S
